US05342846
Ethyl 6,8-difluoro-1-(4-fluorophenyl)-7-[3-(1,2,3-triazol -1-yl) pyrrolidin-1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylate
A solution of ethyl 1-(4-fluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylate (180 mg, 0.5 mmol), 3-(1,2,3-triazol-1-yl)-pyrrolidine hydrochloride (259 mg, 1.4 mmol) and DBU (384 mg, 2.5 mmol) in acetonitrile (20 ml) was heated at 75° C for 3 h, cooled to r.t. and stirred for another 15 h. The separated solid was filtered, successively washed with acetonitrile and ether. The white crystalline solid thus obtained was dried in vac-oven at 40° C. Yield: 135 mg, 56.7%. 1H NMR (CDCl3) δ: 1.35 (t, 3H), 2.50 (m, 2H), 3.70 (m, 1H), 3.85 (m, 2H), 4.10 (m, 1H), 4.35 (q, 2H), 5.25 (m, 1H), 7.20 (m, 2H), 7.40 (m, 2H), 7.63 (d, 1H), 7.72 (d, 1H), 7.90 (dd, 1H), 8.25 (s, 1H).

reactant | ethyl 1-(4-fluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylate | 0.5 mmol, 180 mg | FC1=CC=C(C=C1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C18H11F4NO3
reactant | 3-(1,2,3-triazol-1-yl)-pyrrolidine hydrochloride | 1.4 mmol, 259 mg | Cl.N1(N=NC=C1)C1CNCC1
reactant | DBU | 2.5 mmol, 384 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Ethyl 6,8-difluoro-1-(4-fluorophenyl)-7-[3-(1,2,3-triazol -1-yl) pyrrolidin-1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylate | FC=1C=C2C(C(=CN(C2=C(C1N1CC(CC1)N1N=NC=C1)F)C1=CC=C(C=C1)F)C(=O)OCC)=O | C24H20F3N5O3
